US08461158B2
Reaction of tert-butyl 4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperidine-carboxylate (0.23 g, 0.37 mmol) with TFA (0.45 mL) in CH2Cl2 (8 mL) gave 2-(difluoromethyl)-4-methoxy-1-[4-(4-morpholinyl)-6-(4-piperidinyl)-1,3,5-triazin-2-yl]-1H-benzimidazole, which was treated subsequently with methanesulfonyl chloride and Et3N in CH2Cl2. The reaction mixture was purified by chromatography on silica eluting first with hexanes/EtOAc (1:1) and then hexanes/EtOAc (3:5) to give 0.13 g (67% yield) of 2-(difluoromethyl)-4-methoxy-1-[4-[1-(methylsulfonyl)-4-piperidinyl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1H-benzimidazole: mp 256-258° C.; 1H NMR (CDCl3) δ 7.99 (dd, J=8.4, 0.7 Hz, 1H), 7.55 (t, JHF=53.6 Hz, 1H), 7.39 (t, J=8.3 Hz, 1H), 6.85 (d, J=8.1 Hz, 1H), 4.06 (s, 3H), 4.02-3.89 (m, 6H), 3.87-3.76 (m, 4H), 2.92-2.75 (m, 6H), 2.24-2.16 (m, 2H), 2.10-1.97 (m, 2H); Anal. Calcd. for C22H27F2N7O4S: C, 50.5; H, 5.2; N, 18.7. Found: C, 50.6; H, 5.3; N, 18.6%.

reactant | tert-butyl 4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperidine-carboxylate | 0.37 mmol, 0.23 g | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)C1CCN(CC1)C(=O)OC(C)(C)C)C=CC=C2OC)F | C26H33F2N7O4
reactant | TFA | 0.45 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | 2-(difluoromethyl)-4-methoxy-1-[4-(4-morpholinyl)-6-(4-piperidinyl)-1,3,5-triazin-2-yl]-1H-benzimidazole | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)C1CCNCC1)C=CC=C2OC)F | C21H25F2N7O2
